US05409943
(b) N-(3-(2,4,6-Trimethylbenzyloxy)-2-pyridyl)phenyl-acetamidine hydrochloride
A mixture of 2-amino-3-(2,4,6-trimethylbenzyloxy)pyridine (4.84 g, 20 mmol) and ethyl phenylacetimidate hydrochloride (4.39 g, 22 mmol) in ethanol (80 ml) was heated under reflux for 2 hours. Evaporation of the solvent gave an oil which was purified by flash chromatography (chloroform/methanol) to obtain the product (1.95 g), m.p. 173°-178° C.

reactant | 2-amino-3-(2,4,6-trimethylbenzyloxy)pyridine | 20 mmol, 4.84 g | NC1=NC=CC=C1OCC1=C(C=C(C=C1C)C)C | C15H18N2O
reactant | ethyl phenylacetimidate hydrochloride | 22 mmol, 4.39 g | Cl.C1(=CC=CC=C1)CC(OCC)=N
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | N-(3-(2,4,6-Trimethylbenzyloxy)-2-pyridyl)phenyl-acetamidine hydrochloride | 1.95 g | Cl.CC1=C(COC=2C(=NC=CC2)NC(CC2=CC=CC=C2)=N)C(=CC(=C1)C)C | InChI=1S/C23H25N3O.ClH/c1-16-12-17(2)20(18(3)13-16)15-27-21-10-7-11-25-23(21)26-22(24)14-19-8-5-4-6-9-19;/h4-13H,14-15H2,1-3H3,(H2,24,25,26);1H
